US04117019
A solution of 70 parts of o-xylyl chloride in 230 parts of benzene is added to 350 parts of 75 per cent strength by weight sulfuric acid at 80° C in a stirred vessel, the mixture being stirred with an impeller stirrer at 900 revolutions per minute. After a further 5 hours at 80° C, during which the batch is mixed thoroughly, the organic phase is separated off and 73 parts (= 81.1% of theory) of o-benzyltoluene boiling at from 97° to 100° C at 0.2 mm Hg, and of nD25 = 1.5749, are isolated by distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 81.1% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
